US08349849B2
6-(5-(tert-Butoxycarbonylamino)-2,2-dimethyl-1,3-dioxan-5-yl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate
[5-(6-Hydroxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-2,2-dimethyl-1,3-dioxinan-5-yl]-carbamic acid tert-butyl ester (0.560 g, 0.00119 mol) was dissolved in methylene chloride (20 mL, 0.3 mol). N,N-Diisopropylethylamine (0.620 mL, 0.00356 mol) was added followed by N-phenylbis(trifluoromethanesulphonimide) (0.594 g, 0.00166 mol). The solution was stirred at r.t. for 22 hours. The mixture was concentrated to ˜5 mL, chromatographed with EtOA:hexane (0:100 to 40:60) and a solid product was obtained (313 mg, 52%). 1H NMR (CHLOROFORM-d) δ: 7.11 (m, 1H), 6.95 (m, 2H), 4.81 (s, br, 1H), 3.95 (m, 4H), 3.20 (m, 1H), 2.86 (m, 3H), 2.67 (m, 1H), 2.50 (m, 1H), 2.02 (m, 1H), 1.43 (m, 15H). MS (M+1): 510.0.

reactant | [5-(6-Hydroxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-2,2-dimethyl-1,3-dioxinan-5-yl]-carbamic acid tert-butyl ester | 0.00119 mol, 0.560 g | C(C)(C)(C)OC(NC1(COC(OC1)(C)C)C1CC2=CC=C(C=C2CC1)O)=O | C21H31NO5
reactant | methylene chloride | 0.3 mol, 20 mL | C(Cl)Cl | CH2Cl2
reactant | N,N-Diisopropylethylamine | 0.00356 mol, 0.620 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-phenylbis(trifluoromethanesulphonimide) | 0.00166 mol, 0.594 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
product | 6-(5-(tert-Butoxycarbonylamino)-2,2-dimethyl-1,3-dioxan-5-yl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=2CCC(CC2C=C1)C1(COC(OC1)(C)C)NC(=O)OC(C)(C)C)(F)F | C22H30F3NO7S
